US05580893
N-(2-Nitroxyethyl)-3-furancarboxamide (Exemplified compound No. 40)
Following a similar treatment to that in Example 2 and using 0.48 g of 3-furancarboxylic acid and 0.60 g of nitroxyethylamine nitrate, 0.30 g of the title compound was obtained as colorless plates (solvent for recrystallization; diisopropyl ether).

reactant | 3-furancarboxylic acid | 0.48 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-3-furancarboxamide | 0.30 g | O([N+](=O)[O-])CCNC(=O)C1=COC=C1 | C7H8N2O5
